Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
prednisone
 
Attending: ___
 
Chief Complaint:
Cervical stenosis
 
Major Surgical or Invasive Procedure:
___ - C3-C6 cervical laminectomies and posterior fusion
 
History of Present Illness:
___ is a ___ year old female with known cervical 
stenosis who presented electively on ___ for C3-C6 cervical 
laminectomies and posterior fusion.
 
Past Medical History:
- depression
- hypertension 
 
Social History:
___
Family History:
Significant for neurologic disease, lung disease, intestinal 
problems, cancer.

 
Physical Exam:
On Discharge:
-------------
General: 

Vital Signs: T 98.5F, HR 81, BP 135/84, RR 16, O2Sat 91% on room
air

Exam:

Opens Eyes: [x]Spontaneous [ ]To voice [ ]To noxious
Orientation: [x]Person [x]Place [x]Time
Follows Commands: [ ]Simple [x]Complex
Speech Fluent: [x]Yes [ ]No
Comprehension Intact: [x]Yes [ ]No

Motor:

        Trapezius   Deltoid   Biceps   Triceps   Grip
Right   5           4+*       4+       4+        5
Left    5           4+*       4+       4+        5

        IP   Quadriceps   Hamstring  AT   ___   Gastrocnemius
Right   5    5            5          5    5     5
Left    5    5            5          5    5     5

*Pain limited

[x]Sensation intact to light touch

Surgical Incision:
[x]Clean, dry, intact
[x]Staples
 
Pertinent Results:
Please see ___ Record for relevant laboratory and 
imaging results.
 
Brief Hospital Course:
___ year old female with cervical stenosis.

The patient presented electively on ___ and was taken to 
the operating room for C3-C6 cervical laminectomies and 
posterior fusion. The operation was uncomplicated. Please see 
___ Record for further perioperative details. The 
patient was extubated in the operating room and then recovered 
in the PACU. She was admitted to the floor postoperatively for 
close neurologic monitoring. A surgical ___ drain was 
left in place postoperatively and was subsequently removed 
without complications on ___. Post pull cervical x-rays 
showed no evidence of retained catheter or hardware 
complications. The patient was placed in a hard cervical collar 
given her cigarette smoking. The patient remained neurologically 
stable postoperatively. On ___, the patient was afebrile 
with stable vital signs, ambulating independently, tolerating a 
diet, voiding and stooling without difficulty, and her pain was 
well controlled with oral pain medications. She was discharged 
home on ___ in stable condition.

#Disposition
The patient was discharged home on ___ in stable condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. CloNIDine 0.1 mg PO QHS:PRN insomnia 
2. Gabapentin 800 mg PO TID 
3. Ibuprofen 800 mg PO Q12H:PRN Pain - Mild 
4. Lisinopril 20 mg PO DAILY 
5. Hydrochlorothiazide 12.5 mg PO DAILY
 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
Do not exceed 3000mg in 24 hours.  
2.  Docusate Sodium 100 mg PO BID:PRN Constipation 
___ discontinue if not constipated.  
3.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate Duration: 7 Days 
RX *oxycodone 5 mg ___ tablet(s) by mouth every 4 hours as 
needed for pain Disp #*42 Tablet Refills:*0 
4.  CloNIDine 0.1 mg PO QHS:PRN Insomnia  
5.  Gabapentin 800 mg PO TID  
6.  Hydrochlorothiazide 12.5 mg PO DAILY  
7.  Lisinopril 20 mg PO DAILY  
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical stenosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory, independent.
 
Discharge Instructions:
Surgery:
- Your surgical incision is closed with staples. You will need 
staple removal. 
- Do not apply any lotions or creams to the surgical site. 
- Please keep your surgical incision dry until removal of your 
staples.
- Please avoid swimming for two weeks after staple removal.
- Call your neurosurgeon if there are any signs of infection 
like redness, fever, or drainage. 

Activity:
- You must wear your hard cervical collar at all times. The 
cervical collar helps with healing and alignment of the fusion. 
- You may remove your cervical collar briefly for skin care. Be 
sure not to twist or bend your neck too much while the cervical 
collar is off. It is important to look at your skin and be sure 
there are no wounds forming.
- We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up.
- You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
- No driving while taking any narcotic or sedating medications. 
- No contact sports until cleared by your neurosurgeon. 
- Do NOT smoke. Smoking can affect your healing and fusion.

Medications:
- Please do NOT take any blood thinning medications (aspirin, 
Coumadin, ibuprofen, Plavix, etc.) until cleared by your 
neurosurgeon.
- Do not take any anti-inflammatory medications (Advil, aspirin, 
ibuprofen, Motrin, etc.) until cleared by your neurosurgeon.
- You may use acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.

When To Call Your Neurosurgeon At ___:
- Severe pain, swelling, redness, or drainage from the surgical 
incision. 
- Fever greater than 101.5 degrees Fahrenheit.
- New weakness or changes in sensation in your arms or legs.
 
Followup Instructions:
___